US07893056B2
A 100 mL, three-necked round-bottom flask was charged with a mixture of trans-2,3-dimethylpiperazine and cis-2,3-dimethylpiperazine (Yakugaku Zasshi, 1958, 78, 229-232) (3.571 g, 31.1 mmol). The flask was cooled in an ice bath, and a solution of methanesulfonic acid (3.95 mL, 60.9 mmol) in 2.7 mL of water was added slowly, maintaining the temperature below 40° C. The solution was cooled to 20° C., and 4 mL of ethanol was added. The pH was adjusted to 4 with 60% aqueous potassium acetate, and then benzyl chloroformate (3.86 mL, 27.4 mol in 2 mL of THF) and potassium acetate solutions were simultaneously added dropwise with adjustment of the rate to maintain the reaction solution at pH 4, with cooling to maintain the temperature at 25° C. After the mixture was stirred an additional hour, the organic solvents were removed, and the remaining aqueous solution was washed with ethyl acetate. The ethyl acetate wash was extracted with 1 M HCl twice to recover the desired product. The acid extracts were combined with the original aqueous solution, and the pH was adjusted to 11 by addition of 6 N NaOH, with cooling to maintain the temperature below 40° C. The aqueous solution was then extracted with ethyl acetate, and the ethyl acetate extraction was dried over magnesium sulfate. Filtration and removal of the solvent provided all four stereoisomers of phenylmethyl 2,3-dimethyl-1-piperazinecarboxylate as a dark brown oil (3.11 g, 41%). LCMS: (M+H)+: 249.1.

reactant | trans-2,3-dimethylpiperazine | C[C@@H]1NCCN[C@H]1C | C6H14N2
reactant | cis-2,3-dimethylpiperazine | 31.1 mmol, 3.571 g | C[C@@H]1NCCN[C@@H]1C | C6H14N2
reactant | methanesulfonic acid | 60.9 mmol, 3.95 mL | CS(=O)(=O)O | CH4O3S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | benzyl chloroformate | 27.4 mol, 3.86 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 2.7 mL | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | phenylmethyl 2,3-dimethyl-1-piperazinecarboxylate | 3.11 g, 41% | CC1N(CCNC1C)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
